US07335658B2
6-[4-(4,4,4-TRIFLUORO-3-TRIFLUOROMETHYLBUT-2-ENOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 4,4,4-trifluoro-3-trifluoromethylbut-2-enoic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder (45.4% yield). 1H NMR (CDCl3) δ 8.07, 7.97, 7.10, 7.01, 3.87-3.74, 3.58-3.50, 1.54-1.47, 0.78-0.68, 0.48-0.42, 0.10-0.05. 3C NMR(CDCl3)δ 162.8, 161.1, 159.8, 145.8, 135.2, 135.1, 127.3, 124.5, 112.7, 45.5, 44.4, 44.3, 40.9, 39.7, 34.5, 8.6, 4.2. MS (ES+) m/z 466 (M+1).

reactant | 4,4,4-trifluoro-3-trifluoromethylbut-2-enoic acid | FC(C(=CC(=O)O)C(F)(F)F)(F)F | C5H2F6O2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(4,4,4-TRIFLUORO-3-TRIFLUOROMETHYLBUT-2-ENOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C=C(C(F)(F)F)C(F)(F)F)=O | C19H21F6N5O2
